US07176216B2
N-Cyclopropylmethyl-N-[7-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-2-(methoxymethyl)pyrazolo[1,5-a]pyridin-3-yl]-N-tetrahydro-3-furanylmethylamine
To a solution of N-cyclopropylmethyl-N-[7-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-2-(methoxymethyl)pyrazolo[1,5-a]pyridin-3-yl]amine (15 mg) dissolved in tetrahydrofuran (1 mL) was added tetrahydrofuran-3-carbaldehyde (50% aqueous solution; 0.022 mL), a 3M aqueous sulfuric acid solution (0.036 mL) and sodium borohydride (2.8 mg) while cooling with ice and the reaction mixture was stirred for 1 hour at the same temperature. Water and then saturated aqueous sodium bicarbonate were added to the obtained reaction mixture, extraction was performed with ethyl acetate, the organic extract was washed with brine, dried over anhydrous magnesium sulfate and filtered, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography and the title compound (4.8 mg) was obtained as light yellow crystals from the n-hexane:ethyl acetate (1:2) fraction.

reactant | N-cyclopropylmethyl-N-[7-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-2-(methoxymethyl)pyrazolo[1,5-a]pyridin-3-yl]amine | 15 mg | C1(CC1)CNC=1C(=NN2C1C=CC=C2C2=C(C=C(C=C2OC)COC)OC)COC | C23H29N3O4
reactant | tetrahydrofuran-3-carbaldehyde | 0.022 mL | O1CC(CC1)C=O | C5H8O2
reactant | sulfuric acid | 3M, 0.036 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium borohydride | 2.8 mg | [BH4-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | N-Cyclopropylmethyl-N-[7-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-2-(methoxymethyl)pyrazolo[1,5-a]pyridin-3-yl]-N-tetrahydro-3-furanylmethylamine | 4.8 mg | C1(CC1)CN(CC1COCC1)C=1C(=NN2C1C=CC=C2C2=C(C=C(C=C2OC)COC)OC)COC | C28H37N3O5
